US04521430
1.2 g of (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one, 1.16 g of 3,4-dinitrobenzoic acid and 0.76 g of dicyclohexylcarbodiimide are dissolved in 20 ml of methylene chloride, and the solution is stirred at room temperature overnight. After the reaction, the precipitates are collected by filtration. The filtrate is washed with water, dried and then evaporated to remove solvent. The residue is purified by silica gel chromatography (solvent, chloroform:methanol=100:3), whereby 0.8 g of (+)-cis-2-(4-methoxyphenyl)-3-(3,4-dinitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one is obtained as an oil.

reactant | (+)-cis-2-(4-methoxyphenyl)-3-hydroxy-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 1.2 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1O)=O)CCN(C)C)C=CC=C2 | C20H24N2O3S
reactant | 3,4-dinitrobenzoic acid | 1.16 g | [N+](=O)([O-])C=1C=C(C(=O)O)C=CC1[N+](=O)[O-] | C7H4N2O6
reactant | dicyclohexylcarbodiimide | 0.76 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | (+)-cis-2-(4-methoxyphenyl)-3-(3,4-dinitrobenzoyloxy)-5-[2-(dimethylamino)ethyl]-2,3-dihydro-1,5-benzothiazepin-4(5H)-one | 0.8 g | COC1=CC=C(C=C1)[C@@H]1SC2=C(N(C([C@@H]1OC(C1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-])=O)=O)CCN(C)C)C=CC=C2 | C27H26N4O8S
